US08003662B2
Step B: Preparation of N-(3-fluoro-4-(2-(1-methyl-1H-imidazol-2-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A round-bottomed flask was charged with N-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (230 mg, 0.382 mmol), 1-methyl-2-(tributylstannyl)-1H-imidazole (850.3 mg, 2.29 mmol), tetrakis(triphenylphosphine)palladium (88.25 mg, 0.0764 mmol) and toluene (25 mL). The reaction mixture was stirred at 100° C. until LC-MS showed that the starting material had been consumed (4 hours). Then the reaction was cooled to room temperature and partitioned between EtOAc (100 mL) and H2O (100 mL). The phases were separated and the aqueous phase was re-extracted with EtOAc (3×100 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude product. The crude product was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product (159.8 mg, 75.2%). LRMS (APCI pos): >99% purity, 254 nm, m/e 557 (M+1). 1H NMR (400 MHz, CDCl3) δ 11.82 (s, 1H), 8.50 (m, 1H), 8.41 (m, 1H), 8.22 (m, 1H), 7.98 (m, 1H), 7.46-7.42 (m, 4H), 7.40 (m, 2H), 7.24 (m, 2H), 6.98 (d, 1H), 6.54 (m, 1H), 3.84 (s, 3H).

reactant | N-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.382 mmol, 230 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C24H13F2IN4O3S
reactant | 1-methyl-2-(tributylstannyl)-1H-imidazole | 2.29 mmol, 850.3 mg | CN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.0764 mmol, 88.25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-fluoro-4-(2-(1-methyl-1H-imidazol-2-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 159.8 mg, 75.2% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C=2N(C=CN2)C)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C28H18F2N6O3S
